US07381728B2
2-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(4-methyl-2-thienyl)benzenesulfonamide (E113)
To a mixture of 4-bromo-2-chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide (E104) (70 mg, 0.14 mmol) and (4-methyl-2-thienyl)boronic acid (40 mg, 0.28 mmol) in DME (3 ml) was added potassium tert-butoxide (142 mg, 1.26 mmol) and tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. Additional (4-methyl-2-thienyl)boronic acid (20 mg, 0.14 mmol) and tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) were then added and the mixture stirred in a microwave (set at high absorbance) at 100° C. for a further 30 minutes. The solvent was evaporated after transfer to a new flask with methanol and a few drops of toluene and the residue passed through an SCX column eluting with methanol followed by 2M ammonia in methanol. The appropriate fractions were collected and evaporated in vacuo and the residue purified further by mass directed autoprep HPLC to afford the title compound (E113). MS (ES+) m/e 506/508 [M+H]+.

reactant | 4-bromo-2-chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide | 0.14 mmol, 70 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC)Cl | C19H23BrClN3O3S
reactant | (4-methyl-2-thienyl)boronic acid | 0.28 mmol, 40 mg | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | potassium tert-butoxide | 1.26 mmol, 142 mg | CC(C)([O-])C.[K+]
reactant | (4-methyl-2-thienyl)boronic acid | 0.14 mmol, 20 mg | CC=1C=C(SC1)B(O)O | C5H7BO2S
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(4-methyl-2-thienyl)benzenesulfonamide | ClC1=C(C=CC(=C1)C=1SC=C(C1)C)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C24H28ClN3O3S2
